US07351719B2
Z23b) 4-cyanomethyl-benzoic acid
A solution of 10 g (53 mol) of ethyl 4-cyanomethyl-benzoate and 2.02 mL of a 1 M sodium hydroxide solution in 100 mL of ethanol is refluxed for one hour. Then the reaction solution is evaporated down and the residue is combined with ice water. Concentrated hydrochloric acid is added dropwise to the reaction solution until no more precipitate is formed. The precipitate is filtered off, washed twice with water and dried.

reactant | ethyl 4-cyanomethyl-benzoate | 53 mol, 10 g | C(#N)CC1=CC=C(C(=O)OCC)C=C1 | C11H11NO2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-cyanomethyl-benzoic acid | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
